US05015653
To a solution of (5S,1R)-5-[(3-ethoxy-5-oxo-3-cyclohexen-1-yl)methyl]-1-(phenylmethyl)-2-pyrrolidinone (3.94 g, 12.0 mmol) in 150 ml of 1:1 tetrahydrofuran:ether was added a solution of methyllithium (41 mL, 1.4M in ether, 57.4 mmol) at -78° C. over 10 min. The mixture was stirred for 30 min at -78° C. and quenched by the addition of 50 mL of 50% aqueous acetic acid. The mixture was allowed to warm to room temperature and was extracted with methylene chloride. The combined extracts were washed with saturated sodium bicarbonate, dried over Na2SO4 and concentrated on a rotary evaporator to give 4.05 g of a crude oil. Chromatography of the crude product on silica gel (100 g) eluting with 1% methanol in ethyl acetate afforded 1.85 g (52% yield) of (5S,1R)-5-[(3-methyl-5-oxo-3-cyclohexen- 1-yl)methyl]-1-(phenylmethyl)-2-pyrrolidinone as an oil. A sample was evaporatively distilled at 200°-210° C./0.05 torr for analysis. 1H NMR (CDCl3) δ 1.94 (s, 3 H, CH3), 1.35-2.55 (m, 11 H, CH2 and CH), 3.45 (m, 1 H, NCH), 3.95 and 4.98 (AB,Jgem =15 Hz, 2 H, CH2Ph), 3.87 (s, 1 H, vinyl H), 7.50 (m, 5 H, phenyl). MS (EI) m/e 297 (M+). [α]25D =+59.86°(c 0.2155 in methanol). CD (ethanol) 326 ([ϑ]=-1425, max), 283 ([ϑ]=-42, min), 238 ([ϑ]=+13,620, infl), 218 ([ϑ]=+50,100, max), 212 nm ([ϑ]=+39,820°, min). Anal. Calcd for C19H23NO2 : C, 76.74; H, 7.80; N, 4.71. Found: C, 74.55; H, 7.53, N, 7.41.

reactant | (5S,1R)-5-[(3-ethoxy-5-oxo-3-cyclohexen-1-yl)methyl]-1-(phenylmethyl)-2-pyrrolidinone | 12.0 mmol, 3.94 g | C(C)OC=1C[C@H](CC(C1)=O)C[C@@H]1CCC(N1CC1=CC=CC=C1)=O | C20H25NO3
reactant | ether | CCOCC | C4H10O
reactant | methyllithium | 57.4 mmol, 1.4M, 41 mL | C[Li]
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | (5S,1R)-5-[(3-methyl-5-oxo-3-cyclohexen- 1-yl)methyl]-1-(phenylmethyl)-2-pyrrolidinone | 1.85 g, 52% yield | CC=1C[C@@H](CC(C1)=O)C[C@@H]1CCC(N1CC1=CC=CC=C1)=O | C19H23NO2
